US05604179
22 g (197 mmol) of n-propoxyamine hydroxhloride was dissolved in 100 ml of water, and 200 ml of ethylene dichloride was added thereto. Then, 27.2 g (197 mmol) of potassium carbonate was added in several times under cooling, and then 21.3 g (196 mmol) of ethyl chloroformate was dropwise added thereto at a temperature of not higher than 10° C. After raising the temperature to room temperature, the mixture was further stirred at the same temperature for 4 hours. The ethylene dichloride layer was separated, and then the aqueous layer was extracted twice with 100 ml of chloroform. The ethylene dichloride layer and the chloroform layer were put together, and washed with a saturated sodium chloride aqueous solution, and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure. 27 g of ethyl N-n-propoxycarbamate was obtained by distillation under reduced pressure. Boiling point: 88° C./2.5 mmHg

reactant | n-propoxyamine | 197 mmol, 22 g | C(CC)ON | C3H9NO
reactant | ethylene dichloride | 200 ml | C(CCl)Cl | C2H4Cl2
reactant | potassium carbonate | 197 mmol, 27.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 196 mmol, 21.3 g | ClC(=O)OCC | C3H5ClO2
solvent | water | 100 ml | O | H2O
product | ethyl N-n-propoxycarbamate | 27 g | C(CC)ONC(OCC)=O | C6H13NO3
